US08686150B2
(b) 4-[3-Ethyl-6-(3-fluoro-4-hydroxy-phenyl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester
To a suspension of 3-ethyl-6-(3-fluoro-4-hydroxy-phenyl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid (0.25 g, 0.83 mmol), tert-butyl piperazine-1-carboxylate (0.17 g, 0.91 mmol), 1-hydroxybenzotriazole (0.11 g, 0.83 mmol), and N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.16 g, 0.83 mmol) in anhydrous tetrahydrofurane (5 ml) was added dry N,N-dimethylacetamide (2 ml). The reaction mixture was stirred at room temperature under nitrogen overnight. A solution of saturated sodium hydrogen carbonate was then added, the resulting precipitate was filtered off to afford the title compound (0.25 g, 66%) as a beige solid.

reactant | 3-ethyl-6-(3-fluoro-4-hydroxy-phenyl)-1H-pyrazolo[3,4-b]pyridine-4-carboxylic acid | 0.83 mmol, 0.25 g | C(C)C1=NNC=2N=C(C=C(C21)C(=O)O)C2=CC(=C(C=C2)O)F | C15H12FN3O3
reactant | tert-butyl piperazine-1-carboxylate | 0.91 mmol, 0.17 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 1-hydroxybenzotriazole | 0.83 mmol, 0.11 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.83 mmol, 0.16 g | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofurane | 5 ml | O1CCCC1 | C4H8O
solvent | N,N-dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
product | 4-[3-Ethyl-6-(3-fluoro-4-hydroxy-phenyl)-1H-pyrazolo[3,4-b]pyridine-4-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | 0.25 g, 66% | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1C2=C(N=C(C1)C1=CC(=C(C=C1)O)F)NN=C2CC | C24H28FN5O4
